US07968725B2
a) 2-Chloro-4-methyl-6-(4-trifluoromethyl-phenyl)-pyridine
To a degassed solution of 2-bromo-6-chloro-4-methyl-pyridine (900 mg, 4.37 mmol), 4-trifluoromethylbenzeneboronic acid (830 mg, 4.37 mmol), 2N Na2CO3 (4 mL) in DME (40 mL) was added tetrakis(triphenylphosphine)palladium (320 mg, 0.3 mmol) under argon. The mixture was heated to 55° C. for 5 h, cooled to room temperature, diluted with water, and extracted with methylene chloride (3×). The organic solution was washed with brine, dried over Na2SO4, and concentrated. The residue was purified by column chromatography on silica gel (10-25% methylene chloride in heptane) to give the product as an off white solid (800 mg, 68%). 1H NMR (300 MHz, CDCl3) δ 8.09 (d, J=7.91 Hz, 2H), 7.71 (d, J=8.29 Hz, 2H), 7.49 (s, 1H), 7.16 (s, 1H), 2.43 (s, 3H). MS m/e 272.1 (M+H).

reactant | 2-bromo-6-chloro-4-methyl-pyridine | 4.37 mmol, 900 mg | BrC1=NC(=CC(=C1)C)Cl | C6H5BrClN
reactant | 4-trifluoromethylbenzeneboronic acid | 4.37 mmol, 830 mg | FC(C1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O2
reactant | Na2CO3 | 2N, 4 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DME | 40 mL | COCCOC | C4H10O2
solvent | water | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium | 0.3 mmol, 320 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-Chloro-4-methyl-6-(4-trifluoromethyl-phenyl)-pyridine | 800 mg, 68% | ClC1=NC(=CC(=C1)C)C1=CC=C(C=C1)C(F)(F)F | C13H9ClF3N
